US20010018525A1
step 2 {5′-[8-(Benzoxazol-2-ylsulfanyl)-octylcarbamoyl]-3,3″-dichloro-[1,1′;3′,1″]-terphenyl-2′-yloxy}-ethanol
To a flame dried round bottom flask with 8-(benzoxazol-2-ylsulfanyl)octylamine (0.155 g, 0.558 mmol) in benzene:EtOH (1:1, 6 mL) at room temperature was added 3,5-bis-(m-chlorophenyl)-4-(2-hydroxyethoxy)benzoic acid (0.150 g, 0.372 mmol) followed by EEDQ (0.258 g, 1.04 mmol). After 3 days at this temperature, it was diluted with EtOAc (200 mL). This solution was washed with 1 N HCl (20 mL), sat. aq. NaHCO3 (20 mL), and brine (20 mL) and then dried (MgSO4). After concentration, the residue was purified by preparatory plate chromatography (30% EtOAc/petroleum ether) to afford the product (0.183 g, 74%) as a solid; 1H NMR (CDCl3) δ1.28-1.42 (m, 6H), 1.42-1.68 (m, 5H), 1.77-1.97 (m, 2H), 3.27-3.41 (m, 6H), 3.46 (dd, J=6.1, 13.5 Hz, 2H), 6.09-6.17 (m, 1H), 7.22-7.47 (m, 7H), 7.47-7.54 (m, 2H), 7.54-7.66 (m, 3H), 7.74 (s, 2H); mass spectrum [(+) ESI], m/z 664 (M+H)+.

reactant | 8-(benzoxazol-2-ylsulfanyl)octylamine | 0.558 mmol, 0.155 g | O1C(=NC2=C1C=CC=C2)SCCCCCCCCN | C15H22N2OS
reactant | 3,5-bis-(m-chlorophenyl)-4-(2-hydroxyethoxy)benzoic acid | 0.372 mmol, 0.150 g | ClC=1C=C(C=CC1)C=1C=C(C(=O)O)C=C(C1OCCO)C1=CC(=CC=C1)Cl | C21H16Cl2O4
reactant | EEDQ | 1.04 mmol, 0.258 g | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
solvent | benzene EtOH | 6 mL | C1=CC=CC=C1.CCO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | {5′-[8-(Benzoxazol-2-ylsulfanyl)-octylcarbamoyl]-3,3″-dichloro-[1,1′;3′,1″]-terphenyl-2′-yloxy}-ethanol | 0.183 g, 74% | O1C(=NC2=C1C=CC=C2)SCCCCCCCCNC(=O)C=2C=C(C(=C(C2)C2=CC(=CC=C2)Cl)OC(C)O)C2=CC(=CC=C2)Cl | C36H36Cl2N2O4S
